US07015218B1
1-(4-Chlorophenyl)-N-{3-cyano-4-[4-(2-hydroxyethyl)piperazin-1-yl]phenyl}pyrrole-3-carboxamide
By the reaction and treatment in the same manner as in Example 64 using 1-(4-chlorophenyl)pyrrole-3-carboxylic acid (2 g) and 5-amino-2-[4-(2-hydroxyethyl)piperazin-1-yl]benzonitrile (2.67 g), the title compound (1.1 g) was obtained, melting point: 196° C.

reactant | 1-(4-chlorophenyl)pyrrole-3-carboxylic acid | 2 g | ClC1=CC=C(C=C1)N1C=C(C=C1)C(=O)O | C11H8ClNO2
reactant | 5-amino-2-[4-(2-hydroxyethyl)piperazin-1-yl]benzonitrile | 2.67 g | NC=1C=CC(=C(C#N)C1)N1CCN(CC1)CCO | C13H18N4O
product | 1-(4-Chlorophenyl)-N-{3-cyano-4-[4-(2-hydroxyethyl)piperazin-1-yl]phenyl}pyrrole-3-carboxamide | 1.1 g | ClC1=CC=C(C=C1)N1C=C(C=C1)C(=O)NC1=CC(=C(C=C1)N1CCN(CC1)CCO)C#N | C24H24ClN5O2
